US04914112
To N-methyl-N-benzylurea (1.64 g, 0.01 mol) in chloroform (24 ml) and 50% aqueous sodium hydroxide solution (5.4 ml) was added triethylamine (0.1 g, 0.001 mol) and the mixture was vigorously stirred at room temperature for 3.5 h. After addition of water and chloroform, the mixture was stirred, then extracted with chloroform. The extracts were washed with water, dried with anhydrous sodium sulfate, and evaporated under reduced pressure to a residue, which was chromatographed to afford N-methyl-N-benzylcyanamide (1.2 g, 82% yield) as oily substance: NMR(CDCl3)δ 2.77(s, 3H), 4.14(s, 2H), 7.25-7.50(m, 5H); IR(neat) 2220, 1495, 1455, 1365, 730 cm-1.

reactant | N-methyl-N-benzylurea | 0.01 mol, 1.64 g | CN(C(=O)N)CC1=CC=CC=C1 | C9H12N2O
reactant | triethylamine | 0.001 mol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 24 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydroxide | 5.4 ml | [OH-].[Na+]
product | N-methyl-N-benzylcyanamide | 1.2 g, 82% yield | CN(C#N)CC1=CC=CC=C1 | C9H10N2
